US06506769B2
Tin(II) chloride (46.67 g, 206.84 mmol) was added portionwise to a solution of 2-bromo-5-nitro benzoic acid (12.71 g, 49.9 mmol) in dry ethanol (200 mL). The mixture was heated at 70° C. for 45 min, then ethanol was evaporated. The residue was cooled to 0° C., and acetic anhydride (43 mL) and pyridine (26 mL) were added. The solution was stirred at room temperature for 14 h and evaporated. The residue was partitioned between aq. 2M HCl and ethyl acetate (400 mL). The organic phase was washed with brine and dried over MgSO4. The residue from evaporation was crystallized from water to give 5-acetylamino-2-bromobenzoic acid (12.4 g, 96%).

reactant | Tin(II) chloride | 206.84 mmol, 46.67 g | [Sn](Cl)Cl
reactant | 2-bromo-5-nitro benzoic acid | 49.9 mmol, 12.71 g | BrC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4BrNO4
reactant | ethanol | 200 mL | C(C)O | C2H6O
product | 5-acetylamino-2-bromobenzoic acid | 12.4 g, 96% | C(C)(=O)NC=1C=CC(=C(C(=O)O)C1)Br | C9H8BrNO3
